US07348348B2
Step B: 5-(3-(2-trifluoromethoxyphenyl)benzylidene)thiazolidine-2,4-dione
To a solution of 3-formyl-(2′-trifluoromethoxy-1,1′-biphenyl) (0.31 g, 1.16 mmol) and 2,4-thiazolidinedione (0.164 g, 1.4 mmol) in toluene (20 mL) were added piperidine (0.015 mL, 0.152 mmol) and benzoic acid (0.021 mg, 0.175 mmol), and the reaction was refluxed for 3 h with continuous removal of water. The solvent was then distilled off and the residue was crystallized from ether-pet ether to yield titled product as a solid.

reactant | 3-formyl-(2′-trifluoromethoxy-1,1′-biphenyl) | 1.16 mmol, 0.31 g | C(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)OC(F)(F)F | C14H9F3O2
reactant | 2,4-thiazolidinedione | 1.4 mmol, 0.164 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.152 mmol, 0.015 mL | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.175 mmol, 0.021 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(3-(2-trifluoromethoxyphenyl)benzylidene)thiazolidine-2,4-dione | FC(OC1=C(C=CC=C1)C=1C=C(C=C2C(NC(S2)=O)=O)C=CC1)(F)F | C17H10F3NO3S
